US07399759B2
6-[[4-Oxo-2-(2-pyridyl)-4H-1,3-benzothiazin-6-yl]oxy]hexanoic acid
A mixture of tert-butyl 6-[[4-oxo-2-(2-pyridyl)-4H-1,3-benzothiazin-6-yl]oxy]hexanoate (0.80 g, 1.8 mmol) and trifluoroacetic acid (10 ml) was stirred under ice cooling condition for 1 hr. The reaction mixture was concentrated under reduced pressure and crystallized from diisopropyl ether to give the titled compound (0.69 g, ca. 100%).

reactant | tert-butyl 6-[[4-oxo-2-(2-pyridyl)-4H-1,3-benzothiazin-6-yl]oxy]hexanoate | 1.8 mmol, 0.80 g | O=C1N=C(SC2=C1C=C(C=C2)OCCCCCC(=O)OC(C)(C)C)C2=NC=CC=C2 | C23H26N2O4S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-[[4-Oxo-2-(2-pyridyl)-4H-1,3-benzothiazin-6-yl]oxy]hexanoic acid | 0.69 g, ca. 100% | O=C1N=C(SC2=C1C=C(C=C2)OCCCCCC(=O)O)C2=NC=CC=C2 | C19H18N2O4S
